US08030304B2
3-(4-Bromo-2-butyl-thiazol-5-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Under a nitrogen atmosphere, add n-butyl lithium (2.5 M in hexane, 0.2 mL, 0.5 mmol) to a solution of 3-(2,4-dibromo-thiazol-5-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (230 mg, 0.5 mmol) in THF (3 mL) at −78° C. After 30 min, add 1-iodobutane (138 mg, 0.75 mmol) and continue stirring for 1 hour. Warm up to room temperature and stir for one hour. Quench the reaction by adding saturated ammonia chloride solution and extract with ethyl acetate. Dry the organic portion over sodium sulfate, filter, and concentrate to a residue. Purify the crude material by flash chromatography, eluting with hexanes/ethyl acetate (10/1.5) to give the title compound as orange foam (78 mg). ES/MS m/z (81Br) 437.4 (M+1)+.

reactant | n-butyl lithium | 0.5 mmol, 2.5 M, 0.2 mL | C(CCC)[Li]
reactant | 3-(2,4-dibromo-thiazol-5-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 0.5 mmol, 230 mg | BrC=1SC(=C(N1)Br)C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C | C16H18Br2N4S
reactant | 1-iodobutane | 0.75 mmol, 138 mg | ICCCC | C4H9I
reactant | ammonia chloride | [Cl-].N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(4-Bromo-2-butyl-thiazol-5-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 78 mg | BrC=1N=C(SC1C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C)CCCC | C20H27BrN4S
